US05459148
PREPARATION 13 4'-Bromomethyl-2-(2-trityltetrazol-5-ylcarbonyl)biphenyl
400 mg of 4'-methyl-2-(2-trityltetrazol-5-ylcarbonyl)biphenyl (prepared as described in Preparation 12), 150 mg of N-bromosuccinimide and 20 mg of benzoyl peroxide were treated in the same manner as described in Preparation 8, to give 465 mg of the title compound as a crystalline powder, melting at 161°-163° C. (with decomposition).

reactant | 4'-methyl-2-(2-trityltetrazol-5-ylcarbonyl)biphenyl | 400 mg | CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H26N4O
reactant | N-bromosuccinimide | 150 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 20 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4'-Bromomethyl-2-(2-trityltetrazol-5-ylcarbonyl)biphenyl | 465 mg | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H25BrN4O
